US04675186
(2-Phenyl-4-thiazolyl)glyoxal
4-Acetyl-2-phenylthiazole (16.9 g., 0.083 mol) was dissolved in a mixture of 165 ml. CH3CO2H and 65 ml. H2O by warming to 50°. SeO2 (19.4 g., 0.175 mol) was added and the mixture refluxed for 3 hours, then decolorized with activated carbon, filtered, the filtrate concentrated to an oil, the residue taken up in 600 ml. ethyl acetate, washed 2×300 ml. saturated NaHCO3 and 1×300 ml. brine, and stripped to solids (crude hydrate), 16.2 g. The latter (6 g.) was heated to melting (155°) in vacuo for 10 minutes and cooled to yield title product as a glass; 1H-nmr 7.4-7.7 (m, 3H), 7.9-8.2 (m, 2H), 8.8 (s, 1H), 9.9 (s, 1H).

reactant | 4-Acetyl-2-phenylthiazole | 0.083 mol, 16.9 g | C(C)(=O)C=1N=C(SC1)C1=CC=CC=C1 | C11H9NOS
reactant | CH3CO2H | CC(=O)O | C2H4O2
solvent | H2O | O | H2O
product | (2-Phenyl-4-thiazolyl)glyoxal | C1(=CC=CC=C1)C=1SC=C(N1)C(=O)C=O | C11H7NO2S
